US04052514
A mixture of 2,2',4'-trifluoro-4-biphenylylacetamide (100 mg.), aqueous caustic soda (18N; 1 ml.) and water (5 ml.) was stirred under reflux overnight. The mixture was acidified and extracted with ether. The ether was evaporated and the product recrystallised from 80-100 petroleum ether to give 2,2',4'-trifluoro-4-biphenylylacetic acid, m.p. 144°-147° C.

reactant | 2,2',4'-trifluoro-4-biphenylylacetamide | 100 mg | FC1=C(C=CC(=C1)CC(=O)N)C1=C(C=C(C=C1)F)F | C14H10F3NO
reactant | caustic soda | 18N, 1 ml | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | 2,2',4'-trifluoro-4-biphenylylacetic acid | FC1=C(C=CC(=C1)CC(=O)O)C1=C(C=C(C=C1)F)F | C14H9F3O2
